US04017416
392 Gram of granular anhydrous aluminum chloride and 700 ml of nitrobenzene were introduced into 5 l three neck flask, and dissolved with stirring. A solution of 600 g of 4-n-pentylbiphenyl and 220 g of acetyl chloride dissolved in 500 ml of nitrobenzene (prepared in advance) was dropwise added to said three neck flask over 1 hour, followed by stirring for one hour, further stirring at 40°-45° C for 2 hours, cooling to room temperature, pouring cautiously into a mixed liquid of 250 ml of conc. hydrochloric acid and 1.25 l of water, distilling off nitrobenzene from nitrobenzene layer by distillation under a reduced pressure, separating the resulting solid by filtration, and recrystallizing it from ethanol, to give 597 g of 4'-n-pentyl-4-acetylbiphenyl (m.p. 81°-82°) (Yield 84%).

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-n-pentylbiphenyl | 600 g | C(CCCC)C1=CC=C(C=C1)C1=CC=CC=C1 | C17H20
reactant | acetyl chloride | 220 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | nitrobenzene | 500 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 700 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | water | 1.25 l | O | H2O
product | 4'-n-pentyl-4-acetylbiphenyl | 597 g, Yield 84% | C(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(C)=O | C19H22O
